Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
gluten
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization (___)

 
History of Present Illness:
Mr ___ is a ___ w/ PMH significant for HTN, TIA, colon cancer
s/p resection (___) and chemoradiation, gastric hernia repair
(___), and DVT (___) p/w burning substernal chest pain.  

On ___eveloped burning, left-sided chest pain that 
began
at rest while pt was sitting down. He had associated severe
sweating and numbness/tingling in his left face/neck. He denied
fevers/chills, SOB, nausea/vomiting. He called the ambulance and
was taking the emergency room. Of note pt had two similar
episodes of burning chest pain in ___ and ___ while on
chemotherapy that were attributed to GERD. Other than these two
episodes he has no history of CP. EMS gave pt 81 mg aspirin x2
and nitro spray which improved his chest pain. 

Initial ED vitals: 97.7 90 143/77 14 97% RA 
 
Past Medical History:
Nephrolithiasis
HTN
Thrombocytopenia
DVT
Gout
Celiac 
Rectal cancer
Bronchiectasis
 
Social History:
___
Family History:
Mother- MI, HTN
Father- Healthy
Sister- MS, HTN
Brother- HTN
Brother- HTN, CAD w/ stent placement 
 
Physical Exam:
VS: 97.9 PO 146 / 86 66 18 98  
GENERAL: NAD, sitting up comfortably in bed 
HEENT: NC/AT, PERRL, MMM, EOMI
CARDIAC: RRR, S1 + S2 present, no mrg 
LUNGS: CTAB, no wheezes/crackles, breathing comfortably on RA 
ABDOMEN: SNTND, +BS, no rebound/guarding. Midline abdominal scar
EXTREMITIES: WWP, PPP, no ___ edema. R radial pressure band
 
Pertinent Results:
___ 07:40AM BLOOD WBC-4.4 RBC-4.11* Hgb-12.9* Hct-38.0* 
MCV-93 MCH-31.4 MCHC-33.9 RDW-12.8 RDWSD-43.6 Plt ___
___ 04:11AM BLOOD WBC-5.8 RBC-4.06* Hgb-12.8* Hct-37.8* 
MCV-93 MCH-31.5 MCHC-33.9 RDW-12.9 RDWSD-43.9 Plt ___
___ 04:11AM BLOOD Neuts-64.3 ___ Monos-11.8 Eos-3.1 
Baso-0.5 Im ___ AbsNeut-3.69 AbsLymp-1.15* AbsMono-0.68 
AbsEos-0.18 AbsBaso-0.03
___ 07:40AM BLOOD Plt ___
___ 04:11AM BLOOD Plt ___
___ 07:40AM BLOOD Glucose-114* UreaN-17 Creat-1.1 Na-144 
K-3.9 Cl-106 HCO3-22 AnGap-16
___ 04:11AM BLOOD Glucose-118* UreaN-19 Creat-1.2 Na-142 
K-3.7 Cl-108 HCO3-22 AnGap-12
___ 04:11AM BLOOD estGFR-Using this
___ 10:10AM BLOOD cTropnT-<0.01
___ 04:11AM BLOOD cTropnT-<0.01
___ 07:40AM BLOOD Calcium-8.7 Phos-2.5* Mg-2.___ w/ PMH significant for HTN, TIA, colon cancer s/p resection 
(___) and chemoradiation, gastric hernia repair (___), and DVT 
(___) who p/w burning substernal chest pain. 

#Chest pain: Initially presented to the ED where his vitals were 
stable. No evidence of acute ischemia; troponins were negative 
x2. Did not receive any medication at that time. Underwent 
stress EKG ___ protocol) that demonstrated 1-1.5 mm 
horizontal/downsloping ST depression in the anterior leads, 
0.5-___epression in the inferior leads, and ___levation in aVR. Given these abnormalities, he was taken for 
cardiac catheterization which found normal coronary anatomy. His 
symptoms had improved by the morning, vitals reassuring. Given 
resolution of symptoms he was discharged with no need to follow 
up with a cardiologist.

#Diarrhea: Chronic in nature due to Celiac disease & colon 
resection. Patient report slightly more loose stools for which 
C. diff assay was ordered, however his diarrhea resolved and he 
could not provide a sample. Would consider C. diff assay if 
symptoms recur.

___: Cr 1.4 --> 1.2, self resolving. Likely due to dehydration. 
No intervention.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Allopurinol ___ mg PO DAILY 
3. LOPERamide 2 mg PO QID:PRN diarrhea 
4. Probiotic Acidophilus (Lactobacillus acidophilus) unknown  
oral QD 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Probiotic Acidophilus (Lactobacillus acidophilus) 1 tab oral 
QD 
take as you were before admission  
2.  Allopurinol ___ mg PO DAILY  
3.  amLODIPine 2.5 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  LOPERamide 2 mg PO QID:PRN diarrhea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Non-ischemic chest pain

SECONDARY DIAGNOSES:
Diarrhea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___. Please note the 
following instructions:

Why were you in the hospital?
 - Chest pain that occurred while sitting down

What was done for you in the hospital?
 - You had a cardiac stress test that showed mild EKG 
abnormalities
 - Because of the abnormal stress test, you underwent a cardiac 
catheterization. The results were normal.

What you should do when you get home:
 - Follow up with your regular doctor to discuss your test 
results
 - If you have recurrent chest pain, call your doctor or return 
to the emergency room.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___